US07544688B2
4-(2,2-Dimethyl-propylamino)-6-(pyridin-3-ylmethoxy)-quinazoline-2-carbonitrile
4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile (0.25 mmol), 3-chloromethyl-pyridine hydrochloride (0.38 mmol) and cesium carbonate (2.5 mmol) are stirred in DMF (3 ml) at RT for 20 hours. Water is added until a clear solution is formed. Then more water is added until the solution gets turbide. The precipitate formed is filtered off, washed with water and dried (vacuum). A powder with mp. 156-158° C., Rf=0.35 (CH2Cl2/MeOH=15:1) is obtained.

reactant | 4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile | 0.25 mmol | CC(CNC1=NC(=NC2=CC=C(C=C12)O)C#N)(C)C | C14H16N4O
reactant | 3-chloromethyl-pyridine hydrochloride | 0.38 mmol | Cl.ClCC=1C=NC=CC1
reactant | cesium carbonate | 2.5 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2,2-Dimethyl-propylamino)-6-(pyridin-3-ylmethoxy)-quinazoline-2-carbonitrile | CC(CNC1=NC(=NC2=CC=C(C=C12)OCC=1C=NC=CC1)C#N)(C)C | C20H21N5O
